US04020076
66.5 g of ethoxycarbonyl isothiocyanate were added dropwise to a solution of 61 g of p-methylbenzyl alcohol in 500 ml of tetrahydrofuran and 2 ml of triethylamine and the mixture was refluxed for 24 hours. The mixture was concentrated to dryness to obtain 135 g of raw p-methylbenzyl N-carbethoxy -thiocarbamate.

reactant | ethoxycarbonyl isothiocyanate | 66.5 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | p-methylbenzyl alcohol | 61 g | CC1=CC=C(CO)C=C1 | C8H10O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | p-methylbenzyl N-carbethoxy -thiocarbamate | 135 g | C(=O)(OCC)NC(OCC1=CC=C(C=C1)C)=S | C12H15NO3S
